US04699995
Diethyl 2-[2-(1-tridecynyl)phenyl]methylpropan-1,3-dioate
Reaction of diethyl(2-bromobenzyl)propan-1,3-dioate (11.87 g, 30 mmol) with 1-tridecyne (11.10 g, 45 mmol) as described in example 3 gave 3.89 g (29%) of the title compound as a pale yellow oil after chromatography. It had νmax (film) 1735, 1755, 2840, 2920 cm-1 ; δ(CDCl3) 0.87 (3H, distorted t, terminal CH3), 1.08 (6H, t, J 7 Hz, ester CH3), 1.28 (18H, m, alkylene chain), 2.42 (2H, t, J 6 Hz, C≡C--CH2), 3.31 (2H, d, J 7.5 Hz, ArCH2), 3.90 (1H, t, J 7.5 Hz, methine H), 4.12 (4H, q, J 7.5 Hz, ester CH2), 7.15 (3H, m, aromatics), 7.36 (1H, m, aromatic). M+ 428.2928 (C27H40O4 requires; 428.2926).

reactant | diethyl(2-bromobenzyl)propan-1,3-dioate | 30 mmol, 11.87 g | C(C)OC(C(C(=O)OCC)CC1=C(C=CC=C1)Br)=O | C14H17BrO4
reactant | 1-tridecyne | 45 mmol, 11.10 g | C#CCCCCCCCCCCC | C13H24
product | Diethyl 2-[2-(1-tridecynyl)phenyl]methylpropan-1,3-dioate | 3.89 g, 29% | C(#CCCCCCCCCCCC)C1=C(C=CC=C1)CC(C(=O)OCC)C(=O)OCC | C27H40O4
